US05250517
A solution of 103 mg of N-[[2-(4-biphenyloxy)ethyl ]carbamoyl]-3-phenyl-L-alanine and 113 mg of BOP in acetonitrile was added to 100 mg (0.256 mmol) of (S)-α-amino-N-[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]imidazole-4-propionamide 0.052 ml of Hunig base in 5 ml of acetonitrile, and the mixture was subsequently stirred at room temperature for 12 hours. Subsequently the reaction mixture was poured onto 1N hydrochloric acid/ice, extracted with ethyl acetate, the extracts were dried over sodium sulfate and evaporated to dryness under reduced pressure. The crude product was purified by chromatography on silica gel with a 10:1 mixture of methylene chloride and methanol, to obtain 90 mg (45%) of 1-[2-(4-biphenyloxy)ethyl]-3-[(S)-α-[[(S)-1-[[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]carbamoyl]-2-imidazol-4-ylethyl]- carbamoyl]phenethyl]urea as an amorphous powder. MS: 777 (M+H)+.

reactant | N-[[2-(4-biphenyloxy)ethyl ]carbamoyl]-3-phenyl-L-alanine | 103 mg | C1(=CC=C(C=C1)OCCNC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O)C1=CC=CC=C1 | C24H24N2O4
reactant | BOP | 113 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | (S)-α-amino-N-[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]imidazole-4-propionamide | 0.256 mmol, 0.052 ml, 100 mg | N[C@H](C(=O)N[C@H]([C@H](C[C@H](C=C)C(C)C)O)CC1CCCCC1)CC=1N=CNC1 | C22H38N4O2
reactant | Hunig base | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 1-[2-(4-biphenyloxy)ethyl]-3-[(S)-α-[[(S)-1-[[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-5-hexenyl]carbamoyl]-2-imidazol-4-ylethyl]- carbamoyl]phenethyl]urea | 90 mg, 45% | C1(=CC=C(C=C1)OCCNC(=O)N[C@@H](CC1=CC=CC=C1)C(N[C@@H](CC=1N=CNC1)C(N[C@H]([C@H](C[C@H](C=C)C(C)C)O)CC1CCCCC1)=O)=O)C1=CC=CC=C1 | C46H60N6O5
